US05653911
A mixture of (3-fluoropropyl)triphenylphosphonium bromide (10.0 g, 24.8 millimols) with THF (50 ml) was cooled down to -20° C., followed adding t-BuOK (3.1 g, 27.3 millimols) to the mixture, stirring the resulting mixture for 30 minutes, dropwise adding to the mixture, a THF (60 ml) solution of trans-4-(4-cyanophenyl)cyclohexanecarbaldehyde (5.8 g, 27.3 millimols) so as to keep the temperature at -20° C. or lower, stirring the mixture at the same temperature for 2 hours, adding water (50 ml) to the reaction product after completion of the reaction, extracting the product with ethyl acetate (300 ml), three times washing the resulting organic layer with water, drying it over anhydrous magnesium sulfate, distilling off the solvent under reduced pressure, and subjecting the residue to silica gel column chromatography (eluent: toluene), to obtain raw 4-(trans-4-(4-fluorobutenyl)cyclohexyl)benzonitrile (5.0 g).

reactant | (3-fluoropropyl)triphenylphosphonium bromide | 24.8 millimols, 10.0 g | [Br-].FCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | t-BuOK | 27.3 millimols, 3.1 g | CC(C)(C)[O-].[K+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | trans-4-(4-cyanophenyl)cyclohexanecarbaldehyde | 27.3 millimols, 5.8 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C14H15NO
solvent | water | 50 ml | O | H2O
product | 4-(trans-4-(4-fluorobutenyl)cyclohexyl)benzonitrile | 5.0 g | FCCC=C[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C17H20FN
